US07053122B2
2,3-Dihydro-1H-isoindole-4carboxylic acid methyl ester hydrochloride salt
To a solution of 2-benzyl-2,3-dihydro-1H-isoindole-4-carboxylic acid methyl ester (0.3 g, 1.12 mmol) in dichloromethane (4 ml) at −10° C., was added dropwise α-chloroethyl chloroformate (0.16 ml, 1.46 mmol) and stirred at −10° C. for 30 mins. The solvent was removed by evaporation under reduced pressure and the residue dissolved in methanol (5 ml) and heated to 90° C. for 40 mins. The solution was cooled to room temperature and the solvent removed by evaporation under reduced pressure. The residue was diluted with ethyl acetate (30 ml), extracted into sat. NaOH solution to give a hygroscopic solid, used without further purification.

reactant | 2-benzyl-2,3-dihydro-1H-isoindole-4-carboxylic acid methyl ester | 1.12 mmol, 0.3 g | COC(=O)C=1C=2CN(CC2C=CC1)CC1=CC=CC=C1 | C17H17NO2
reactant | α-chloroethyl chloroformate | 1.46 mmol, 0.16 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 2,3-Dihydro-1H-isoindole-4carboxylic acid methyl ester hydrochloride salt | Cl.COC(=O)C=1C=2CNCC2C=CC1 | InChI=1S/C10H11NO2.ClH/c1-13-10(12)8-4-2-3-7-5-11-6-9(7)8;/h2-4,11H,5-6H2,1H3;1H
